US05236952
7.3 g of 3,4-dihydroxy-5-nitrobenzoic acid are treated with 30 ml of acetic anhydride, whereupon the mixture is held at the reflux temperature for 8 hours. The reaction mixture is poured on to ice. The separated precipitate is filtered under suction, washed with water and taken up in methylene chloride. The organic phase is dried over sodium sulfate and evaporated. The residue obtained is recrystallized from methylene chloride/n-hexane in the cold. There is obtained 3,4-diacetoxy-5-nitrobenzoic acid in the form of colorless crystals of m.p. 126°-127°.

reactant | 3,4-dihydroxy-5-nitrobenzoic acid | 7.3 g | OC=1C=C(C(=O)O)C=C(C1O)[N+](=O)[O-] | C7H5NO6
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,4-diacetoxy-5-nitrobenzoic acid | C(C)(=O)OC=1C=C(C(=O)O)C=C(C1OC(C)=O)[N+](=O)[O-] | C11H9NO8
